US08541457B2
Synthesis of 2-(5-Chloro-2-fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 5-chloro-2-fluorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 22% yield. m.p. 175-178° C.; 1H NMR (CDCl3, 300 MHz) δ 8.12 (dd, J=2.8, 6.6 Hz, 1H), 7.53 (ddd, J=2.8, 4.4, 8.8 Hz, 1H), 7.38-7.24 (m, 6H), 7.17 (dd, J=8.8, 11.3 Hz, 1H), 6.01 (t, J=4.7 Hz, 1H), 4.59 (d, J=5.6 Hz, 2H), 2.61 (s, 3H); MS (ES+) m/z 404.1 (M+1).

reactant | 5-chloro-2-fluorobenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)F | C7H3Cl2FO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(5-Chloro-2-fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 22% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC(=C1)Cl)F)=O)C | C19H15ClFN3O2S
